US08309542B2
(d) 5-Methyl-4,5-dihydro-thieno[2,3-c]-pyridine
A solution of 6.6 g (33.1 mmol) N-(1-methyl-2-thiphen-2-yl-ethyl)-formamide in 200 ml acetonitrile is cooled in the ice bath and slowly combined with a solution of 6.1 ml (66.3 mmol) phosphorus oxychloride in 50 ml acetonitrile. The mixture is first of all stirred for a further three hours in the ice bath and then for 16 hours at RT. Then it is poured onto 200 ml of water, made alkaline with 9 g of solid sodium hydroxide and extracted three times with ethyl acetate. The combined organic phases are combined with activated charcoal and sodium sulphate, filtered and evaporated down i. vac.

reactant | N-(1-methyl-2-thiphen-2-yl-ethyl)-formamide | 33.1 mmol, 6.6 g | CC(CC=1SC=CC1)NC=O | C8H11NOS
reactant | phosphorus oxychloride | 66.3 mmol, 6.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 200 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-Methyl-4,5-dihydro-thieno[2,3-c]-pyridine | CC1CC2=C(C=N1)SC=C2 | C8H9NS
